US08008506B2
6-Tert-butyldiphenylsilyloxyindazole
Indazol-6-ol (4.029 g) that can be produced by the method described in Reference Example 21 or the like, was dissolved in dehydrated DMF (60 mL; manufactured by Kanto Chemical Co., Inc.), and imidazole (4.49 g; manufactured by Tokyo Chemical Industry Co., Ltd.) and TBDPSCl (17.1 mL; manufactured by Tokyo Chemical Industry Co., Ltd.) were added to the solution. The mixture was stirred overnight at room temperature. The reaction solution was poured into water, and the mixture was extracted three times with ethyl acetate. The organic layer was washed three times with water, and was dried over anhydrous magnesium sulfate. Subsequently, the solvent was evaporated under reduced pressure, and the residue was purified by column chromatography (“COLUMN-A”; n-hexane:ethyl acetate=92:8→71:29). Thus, the title compound (9.214 g) was obtained.

reactant | imidazole | 4.49 g | N1C=NC=C1 | C3H4N2
reactant | TBDPSCl | 17.1 mL | CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)Cl | C16H19ClSi
reactant | water | O | H2O
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 6-Tert-butyldiphenylsilyloxyindazole | 9.214 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=NNC2=C1 | C23H24N2OSi
